.INCLUDE 22nm_HP.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

.param Lmin=22n
.param Wmin=22n
.param Ldiff=44n
.param vdd = 0.8
.param gnd = 0
.temp 25

.SUBCKT AND A0 A1 out vddrail gndrail

    Mp1 D1 A0 vddrail vddrail pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
    Mp2 D1 A1 vddrail vddrail pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
    Mp3 out D1 vddrail vddrail pmos W={2*Wmin} L={Lmin} AS={2*Wmin*Ldiff} AD={2*Wmin*Ldiff} PS={2*(Ldiff+2*Wmin)} PD={2*(Ldiff+2*Wmin)}

    Mn1 D1 A0 S1 S1 nmos W={2*Wmin} L={Lmin} AS={2*Wmin*Ldiff} AD={2*Wmin*Ldiff} PS={2*(Ldiff+2*Wmin)} PD={2*(Ldiff+2*Wmin)}
    Mn2 S1 A1 gndrail gndrail nmos W={2*Wmin} L={Lmin} AS={2*Wmin*Ldiff} AD={2*Wmin*Ldiff} PS={2*(Ldiff+2*Wmin)} PD={2*(Ldiff+2*Wmin)}
    Mn3 out D1 gndrail gndrail nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}


.ENDS

.SUBCKT NOT A0 out vddrail gndrail

    Mp1 out A0 vddrail vddrail pmos W={2*Wmin} L={Lmin} AS={2*Wmin*Ldiff} AD={2*Wmin*Ldiff} PS={2*(Ldiff+2*Wmin)} PD={2*(Ldiff+2*Wmin)}
    Mn1 out A0 gndrail gndrail nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

.ENDS

.SUBCKT NOR A0 A1 out vddrail gndrail
    
    Mp1 Dp1 A0 vddrail vddrail pmos W={8*Wmin} L={Lmin} AS={8*Wmin*Ldiff} AD={8*Wmin*Ldiff} PS={2*(Ldiff+8*Wmin)} PD={2*(Ldiff+8*Wmin)}
    Mp2 out A1 Dp1 Dp1 pmos W={8*Wmin} L={Lmin} AS={8*Wmin*Ldiff} AD={8*Wmin*Ldiff} PS={2*(Ldiff+8*Wmin)} PD={2*(Ldiff+8*Wmin)}

    Mn1 out A0 gndrail gndrail  nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
    Mn2 out A1 gndrail gndrail  nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

.ENDS

.SUBCKT OR A0 A1 out vddrail gndrail

    Mp1 Dp1 A0 vddrail vddrail pmos W={8*Wmin} L={Lmin} AS={8*Wmin*Ldiff} AD={8*Wmin*Ldiff} PS={2*(Ldiff+8*Wmin)} PD={2*(Ldiff+8*Wmin)}
    Mp2 D1 A1 Dp1 Dp1 pmos W={8*Wmin} L={Lmin} AS={8*Wmin*Ldiff} AD={8*Wmin*Ldiff} PS={2*(Ldiff+8*Wmin)} PD={2*(Ldiff+8*Wmin)}
    Mp3 out D1 vddrail vddrail pmos W={2*Wmin} L={Lmin} AS={2*Wmin*Ldiff} AD={2*Wmin*Ldiff} PS={2*(Ldiff+2*Wmin)} PD={2*(Ldiff+2*Wmin)}

    Mn1 D1 A0 gndrail gndrail  nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
    Mn2 D1 A1 gndrail gndrail  nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
    Mn3 out D1 gndrail gndrail nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

.ENDS

XAND1 P0 G0 w1 vddrail gndrail AND
XNOT1 Cn w2 vddrail gndrail NOT
XAND2 G0 w2 w3 vddrail gndrail AND
XNOR1 w1 w3 cnx vddrail gndrail NOR

XAND3 P1 G1 w4 vddrail gndrail AND
XAND4 w1 G1 w5 vddrail gndrail AND
XAND5 w3 G1 w6 vddrail gndrail AND
XOR1 w4 w5 w7 vddrail gndrail OR
XNOR2 w7 w6 cny vddrail gndrail NOR

XAND6 P2 G2 w8 vddrail gndrail AND
XAND7 w4 G2 w9 vddrail gndrail AND
XAND8 G1 G2 w10 vddrail gndrail AND
XAND9 w1 w10 w11 vddrail gndrail AND
XAND10 w3 w10 w12 vddrail gndrail AND
XOR3 w8 w9 w13 vddrail gndrail OR
XOR4 w11 w12 w14 vddrail gndrail OR
XNOR3 w13 w14 cnz vddrail gndrail OR

XAND11 P3 G3 w15 vddrail gndrail AND
XAND12 w8 G3 w16 vddrail gndrail AND
XAND13 P1 G3 w17 vddrail gndrail AND
XAND14 w17 w10 w18 vddrail gndrail AND
XAND15 G0 G3 w19 vddrail gndrail AND
XAND16 w10 w19 w20 vddrail gndrail AND
XOR5 w15 w16 w21 vddrail gndrail OR
XOR6 w18 w20 w22 vddrail gndrail OR
XOR7 w21 w22 G vddrail gndrail OR

XOR8 P0 P1 w23 vddrail gndrail OR
XOR9 P2 P3 w24 vddrail gndrail OR
XOR10 w23 w24 P vddrail gndrail OR

VP0 P0 0 0
VP1 P1 0 0
VP2 P2 0 0
VP3 P3 0 0

VG0 G0 0 0
VG1 G1 0 0
VG2 G2 0 0
VG3 G3 0 0

VCn Cn 0 0

VD vddrail 0 0.8
Vgnd gndrail 0 0




.control
op
let leakage_sub = abs(I(Vgnd))
let leakage_gate = (abs(I(VP0))+abs(I(VP1))+abs(I(VP2))+abs(I(VP3))+abs(I(VG0))+abs(I(VG1))+abs(I(VG2))+abs(I(VG3))+abs(I(VCn)))
let leakage = leakage_gate + leakage_sub
print leakage  V(G0) V(G1) V(G2) V(G3) V(P0) V(P1) V(P2) V(P3) V(P) V(G) V(cnz) V(cny) V(cnx)
.endc
.end
